US04766110
B. Alkylation of pyruvoyl-L-proline with the product of A (Example 28)
Molecular sieves (1.312 g) were added with stirring to a mixture of 0.206 g of hCl.L-Asp-β-pyrrolide-α-ethyl ester, 0.073 g of NaHCO3 and 0.986 g of N-pyruvoyl-L-proline-t-butyl ester in 0.1 ml of H2O and 2.0 ml of ethanol at room temperature. The mixture was stirred for 30 minutes and then 0.054 g of sodium cyanoborohydride in 1.0 ml of ethanol was added drop-wise over a period of 4 hours. Stirring was continued for another 18 hours. The mixture was filtered and the precipitate was washed with ethanol. Solvent of the combined filtrates was removed by rotary evaporation to yield a yellow oil. The material was chromatographed on LH-20 (2.2×99 cm) and developed with THF/isopropanol (3:7 by vol). The residue obtained by rotary evaporation was dissolved in 1.2 ml of TFA. After 45 minutes at room temperature, TFA was removed and the material was purified by chromatography on AG1-X2 (1.2×38 cm) developed first with H2O and then with a linear gradient between H2O and 0.5M ammonium acetate. Apparently pure product, 31.5 mg, was obtained by chromatography on Sephadex G-10 (1.2×97 cm column) developed with 2% pyridine. The ethoxy group was removed by saponification.

reactant | NaHCO3 | 0.073 g | C(=O)(O)[O-].[Na+]
reactant | N-pyruvoyl-L-proline-t-butyl ester | 0.986 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(=O)C)=O)=O | C12H19NO4
reactant | sodium cyanoborohydride | 0.054 g | C(#N)[BH3-].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | H2O | 0.1 ml | O | H2O
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
solvent | TFA | 1.2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | pyruvoyl-L-proline | C(C(=O)C)(=O)N1[C@H](C(=O)O)CCC1 | C8H11NO4
